US08835428B2
Step 1: 4-Phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester
The title compound was prepared from 3-(4-amino-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester and 4-phenyl isocyanate as set forth in the preparation of 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester in Example 76 and was obtained in 82% yield. Mass (ES+): 428 (M++1); IR (KBr): 3280, 1725, 1638, 1590, 1573, 1557; 1H NMR (DMSO-d6) δ: 1.05 (t, 3H), 4.16 (q, 2H), 6.96 (t, 1H), 7.27 (t, 2H), 7.45 (d, 2H), 7.53-7.62 (m, 7H), 7.82-7.85 (m, 2H), 8.80 (br 1H), 8.99 (br, 1H).

reactant | 3-(4-amino-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=CC=C(C=C1)N | C18H16N2O3
reactant | 3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C19H17N3O4
reactant | KBr | [K+].[Br-]
product | 4-Phenyl-3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester | 82% yield | C(C)OC(=O)C1=C(C(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O4
